US06635657B1
B. 3-[2-(4-Toluenesulfonyloxy)ethyl]oxazolidin-2-one
To an ice cold stirring solution of crude 3-(2-hydroxyethyl)oxazolidin-2-one (15.1 g, 115 mmol) in dichloromethane (40 mL) was added triethylamine (18 mL, 129 mmol), and 4-(N,N-dimethylamino)pyridine (0.143 g, 1.2 mmol). A slurry of 4-toluenesulfonyl chloride (25.0 g, 131 mmol) in dichloromethane (50 mL) was then added dropwise. The reaction mixture was stirred for 3 d at room temperature, washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was slurried in isopropanol and filtered to give 23.88 g (73%) of a white solid.

reactant | 3-(2-hydroxyethyl)oxazolidin-2-one | 115 mmol, 15.1 g | OCCN1C(OCC1)=O | C5H9NO3
reactant | triethylamine | 129 mmol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | 4-toluenesulfonyl chloride | 131 mmol, 25.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 1.2 mmol, 0.143 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-[2-(4-Toluenesulfonyloxy)ethyl]oxazolidin-2-one | 23.88 g, 73% | C1(=CC=C(C=C1)S(=O)(=O)OCCN1C(OCC1)=O)C | C12H15NO5S
